US04945098
1-Hexadecyloxy-3-[5-(methanesulfonyloxy)pentyloxy]-2-methylenepropane
3-Hexadecyloxy-2-methylenepropan-1-ol (from Preparation 1) (4.45 g), sodium hydride dispersion (55-60% in oil, 1.4 g), and 1,5-dimethanesulfonyloxypentane (10.9 g) were mixed in dry dimethylformamide (33 ml) and stirred at 54° C. for 20 hours. Following the work-up procedure described in Preparation 7, the desired product was obtained.

reactant | 3-Hexadecyloxy-2-methylenepropan-1-ol | 4.45 g | C(CCCCCCCCCCCCCCC)OCC(CO)=C | C20H40O2
reactant | sodium hydride | [H-].[Na+]
reactant | 1,5-dimethanesulfonyloxypentane | 10.9 g | CS(=O)(=O)OCCCCCOS(=O)(=O)C | C7H16O6S2
solvent | dimethylformamide | 33 ml | CN(C=O)C | C3H7NO
product | 1-Hexadecyloxy-3-[5-(methanesulfonyloxy)pentyloxy]-2-methylenepropane | C(CCCCCCCCCCCCCCC)OCC(COCCCCCOS(=O)(=O)C)=C | C26H52O5S
